US07576072B2
Step B: Preparation of [5-(5-amino-[1,3,4]oxadiazol-2-yl)-7-fluoropyrazolo[1,5-a]pyrimidin-6-yl]-(4-bromo-2-fluorophenyl)-amine.
Cyanogen bromide (2.02 equivalents) is added to a suspension of 6-(4-bromo-2-fluorophenylamino)-7-fluoropyrazolo[1,5-a]pyrimidine-5-carboxylic acid hydrazide (1.00 equivalent) in dioxane followed by an aqueous NaHCO3 solution (1.01 equivalents). After 17 hours, the reaction mixture is diluted with water and extracted with EtOAc. The combined organic extracts are washed with brine, dried (MgSO4) and concentrated under reduced pressure. The product is purified by flash chromatography as necessary.

reactant | Cyanogen bromide | 2.02 equivalents | N#CBr | CBrN
reactant | 6-(4-bromo-2-fluorophenylamino)-7-fluoropyrazolo[1,5-a]pyrimidine-5-carboxylic acid hydrazide | 1.00 equivalent | BrC1=CC(=C(C=C1)NC=1C(=NC=2N(C1F)N=CC2)C(=O)NN)F | C13H9BrF2N6O
reactant | NaHCO3 | 1.01 equivalents | C(=O)(O)[O-].[Na+]
solvent | dioxane | O1CCOCC1 | C4H8O2
solvent | water | O | H2O
product | [5-(5-amino-[1,3,4]oxadiazol-2-yl)-7-fluoropyrazolo[1,5-a]pyrimidin-6-yl]-(4-bromo-2-fluorophenyl)-amine | NC1=NN=C(O1)C1=NC=2N(C(=C1NC1=C(C=C(C=C1)Br)F)F)N=CC2 | C14H8BrF2N7O
